US04443248
Prepration of 5-(4-Bromophenoxy)-2-(methylthio)phenol
3-(4-Bromophenoxy)phenol (0.1 mole) and methylene chloride (200 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and addition funnel. The mixture is stirred until dissolved and cooled to about -20° C. A solution of methyl sulfenyl chloride freshly prepared by reacting dimethyl disulfide (0.15 mole) with chlorine (0.18 mole) in methylene chloride (100 ml) is then added dropwise to the reaction vessel over a period of about 40 minutes. After the addition is completed stirring is continued for 30 minutes with cooling and 30 minutes at room temperature. After this time the reaction mixture is washed with water (200 ml), with 5% aqueous sodium bicarbonate (200 ml) and again with water (200 ml). The washed solution is then dried by passing it through a phase separator. The dried solution is stripped of solvent under reduced pressure and the residue chromatographed using a clay column and hexane/ethyl acetate as the eluant. The fractions containing the product are combined and stripped of solvent to yield the desired product 5-(4-bromophenoxy) 2-(methylthio)phenol as the residue.

reactant | 3-(4-Bromophenoxy)phenol | 0.1 mole | BrC1=CC=C(OC=2C=C(C=CC2)O)C=C1 | C12H9BrO2
reactant | methyl sulfenyl chloride | CSCl | CH3ClS
reactant | dimethyl disulfide | 0.15 mole | CSSC | C2H6S2
reactant | chlorine | 0.18 mole | ClCl | Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-bromophenoxy) 2-(methylthio)phenol | BrC1=CC=C(OC=2C=CC(=C(C2)O)SC)C=C1 | C13H11BrO2S
